US07482462B2
69 μl of DIEA are added to a solution of 60 mg of 9-(carboxy-fluoro-methylene)-3-aza-bicyclo[3.3.1]nonane-3-carboxylic acid tert-butyl ester, 71 mg of 2,4,5-trichloro-thiophene-3-sulfonyl amide, 233 μl of PPA and 24 mg of DMAP in 2 ml of DMA, and the mixture obtained is stirred at 40° overnight. The mixture obtained is diluted with 10 ml of EtAc/c-HEX, and washed with 1M NaHSO4 solution. The organic layer obtained is dried and solvent is evaporated. The evaporation residue obtained is subjected to chromatography on silica gel and on Sephadex LH20 (MeOH) and relevant fractions obtained from chromatography are subjected to lyophilisation from dioxane. 9-[1-Fluoro-2-oxo-2-(2,4,5-trichloro-thiophene-3-sulfonylamino)-ethylidene]-3-aza-bicyclo[3.3.1]nonane-3-carboxylic acid tert.-butyl ester in the form of a powder is obtained.

reactant | DIEA | 69 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 9-(carboxy-fluoro-methylene)-3-aza-bicyclo[3.3.1]nonane-3-carboxylic acid tert-butyl ester | 60 mg | C(C)(C)(C)OC(=O)N1CC2CCCC(C1)C2=C(F)C(=O)O | C15H22FNO4
reactant | 2,4,5-trichloro-thiophene-3-sulfonyl amide | 71 mg | ClC=1SC(=C(C1S(=O)(=O)[NH-])Cl)Cl
reactant | MeOH | CO | CH4O
catalyst | DMAP | 24 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMA | 2 ml | CC(=O)N(C)C | C4H9NO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 9-[1-Fluoro-2-oxo-2-(2,4,5-trichloro-thiophene-3-sulfonylamino)-ethylidene]-3-aza-bicyclo[3.3.1]nonane-3-carboxylic acid tert.-butyl ester | C(C)(C)(C)OC(=O)N1CC2CCCC(C1)C2=C(C(NS(=O)(=O)C2=C(SC(=C2Cl)Cl)Cl)=O)F | C19H22Cl3FN2O5S2
